US05107026
Preparation of 4-[(3-Aminophenyl)ethynyl]-phenyl Trifluoromethyl Sulfide
A multinecked flask as described in Example 1 was charged with 5.4 g (0.021 mol) of p-bromophenyl trifluoromethyl sulfide, 75 ml of dried, degassed triethylamine, 2.46 g (0.021 mol) of 3-aminophenylacetylene, 0.048 g (0.068 mmol) of bis(triphenylphosphine) palladium II chloride, 0.0148 g (0.564 mmol) of triphenylphosphine, and 0.03 g (0.157 mmol) of cuprous iodide. The reaction mixture was heated at 75° C. for 20 hours after which gas chromatography showed the reaction to be complete. The mixture was cooled to room temperature and diluted with 75 ml of ether. Filtration of the insoluble triethylamine hydrobromide salt by-product followed by concentration of the filtrate gave the crude product in near quantitative yield as an off-white solid. Short path distillation of the crude product under reduced pressure gave 3.9 g (0.013 mol, 62% yield) of the purified product as a white solid.

reactant | p-bromophenyl trifluoromethyl sulfide | 0.021 mol, 5.4 g | FC(F)(F)SC1=CC=C(C=C1)Br | C7H4BrF3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-aminophenylacetylene | 0.021 mol, 2.46 g | NC=1C=C(C=CC1)C#C | C8H7N
solvent | ether | 75 ml | CCOCC | C4H10O
catalyst | bis(triphenylphosphine) palladium | 0.068 mmol, 0.048 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | triphenylphosphine | 0.564 mmol, 0.0148 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 4-[(3-Aminophenyl)ethynyl]-phenyl Trifluoromethyl Sulfide | 0.013 mol, 3.9 g, 62% yield | FC(F)(F)SC1=CC=C(C=C1)C#CC1=CC(=CC=C1)N | C15H10F3NS
